US07071219B2
To a suspension of 18.5 g (50 mmol) 5-(2-tert-Butoxycarbonylamino-phenyl-carbamoyl)-thiophene-2-carboxylic acid methyl ester in 500 ml MeOH was added within 20 minutes a solution of 5.6 g (100 mmol) potassium hydroxide in 100 ml water. The reaction mixture was stirred at room temperature for 2 d. The MeOH was evaporated and the remaining aqueous solution was extracted three times with ethylacetate and acidified with a 3 N aqueous HCl solution. The precipitation was filtered off, washed with water and dried at 45° C. in high vacuum to yield 14.5 g (40 mmol) 5-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-thiophene-2-carboxylic acid., 1H-NMR (D6-DMSO) δ=1.45 (s, 9H), 7.14 (m, 1H), 7.22 (m, 1H), 7.46 (m, 1H), 7.59 (m, 1H), 7.90 (m, 2H), 8.72 (s, 1H), 9.99 (s, 1H), 13.54 (s, 1H).

reactant | 5-(2-tert-Butoxycarbonylamino-phenyl-carbamoyl)-thiophene-2-carboxylic acid methyl ester | 50 mmol, 18.5 g | COC(=O)C=1SC(=CC1)C(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O | C18H20N2O5S
reactant | potassium hydroxide | 100 mmol, 5.6 g | [OH-].[K+]
solvent | MeOH | 500 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 5-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-thiophene-2-carboxylic acid | 40 mmol, 14.5 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=CC=C(S1)C(=O)O | C17H18N2O5S
